US07884228B1
Preparation of 5-(2-nitroprop-1-enyl)benzo[d][1,3]dioxole
5.00 g (33.3 mmol) piperonal (Aldrich, Milwaukee, Wis.), 12.8 g (167 mmol) ammonium acetate (Fluka), and 50 g (670 Mmol) nitroethane, 98% (Aldrich) were combined in a 100 ml round bottom flask equipped with magnetic stirrer and nitrogen inlet. The reaction mixture was heated to 105° C. for 90 minutes and the solvent was removed under vacuum to give a dark yellow liquid which was recrystallized from cold methyl alcohol three times to give a yellow crystalline solid in 40% yield. 1H NMR spectra is shown in FIG. 1.

reactant | piperonal | 33.3 mmol, 5.00 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | ammonium acetate | 167 mmol, 12.8 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 670 Mmol, 50 g | [N+](=O)([O-])CC | C2H5NO2
product | 5-(2-nitroprop-1-enyl)benzo[d][1,3]dioxole | 40% yield | [N+](=O)([O-])C(=CC1=CC2=C(OCO2)C=C1)C | C10H9NO4
